US07314849B2
Iron powder (0.78 g, 13.9 mmol) was added to a slurry of methyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-5-nitrophenyl)pyridine-2-carboxylate (0.5 g, 1.39 mmol) in acetic acid (20 mL) in a 100 mL round bottomed flask. The mixture was heated to 85° C. for 15 minutes. then cooled to room temperature and filtered through celite with ethanol and the filtrate concentrated in vacuo. The residue was partitioned between ethyl acetate and saturated NaHCO3, the layers separated, the aqueous phase extracted with ethyl acetate and the combined organics dried (Na2SO4). Filtration and concentration gave 4-amino-3-chloro-6-(5-amino-4-chloro-2-fluorophenyl)pyridine-2-carboxylic acid methyl ester (0.44 g, 1.33 mmol) as a light brown solid: mp 99-101° C.

reactant | methyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-5-nitrophenyl)pyridine-2-carboxylate | 1.39 mmol, 0.5 g | NC1=C(C(=NC(=C1)C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)F)C(=O)OC)Cl | C13H8Cl2FN3O4
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 13.9 mmol, 0.78 g | [Fe] | Fe
product | 4-amino-3-chloro-6-(5-amino-4-chloro-2-fluorophenyl)pyridine-2-carboxylic acid methyl ester | 1.33 mmol, 0.44 g | COC(=O)C1=NC(=CC(=C1Cl)N)C1=C(C=C(C(=C1)N)Cl)F | C13H10Cl2FN3O2
